US04888138
Preparation of 3-Decyloxy-2-Hydroxypropylcarbamic Acid, 3-Decyloxy-2-Hydroxypropylammonium Salt
The ammonium carbamate prepared as described above was dissolved in anhydrous methanol (a total of 3.5 L) and transferred to a five liter three-necked round bottom flask equipped with thermometer and magnetic stirrer. (Decyloxy)methyloxirane (150 g, 0.7 mole) was added and the mixture was stirred at ambient temperature for five days, after which no more epoxide could be detected by TLC (silica gel, 4:1 hexane:methyl t-butyl ether, Rf =0.62). A small amount of precipitate was observed. The mixture was cooled to 5° C. and suction filtered on a coarse frit. After drying, 8.2 g of white solid was obtained. The methanol solution was evaporated to dryness on a rotary evaporator at about 5 mm Hg and a bath temperature of about 40° C. The crude substituted ammonium carbamate was obtained as a white solid (161 g, 91%).

reactant | ammonium carbamate | C(N)([O-])=O.[NH4+]
reactant | (Decyloxy)methyloxirane | 0.7 mole, 150 g | C(CCCCCCCCC)OCC1OC1 | C13H26O2
reactant | hexane | CCCCCC | C6H14
reactant | methyl t-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | methanol | CO | CH4O
product | 3-Decyloxy-2-Hydroxypropylcarbamic Acid, 3-Decyloxy-2-Hydroxypropylammonium Salt | 8.2 g | C(CCCCCCCCC)OCC(C[NH3+])O.C(CCCCCCCCC)OCC(CNC([O-])=O)O | InChI=1S/C14H29NO4.C13H29NO2/c1-2-3-4-5-6-7-8-9-10-19-12-13(16)11-15-14(17)18;1-2-3-4-5-6-7-8-9-10-16-12-13(15)11-14/h13,15-16H,2-12H2,1H3,(H,17,18);13,15H,2-12,14H2,1H3
